US06048885
Dioxane (2 ml) and acetic acid (1.5 ml) were added to 2-(4-chlorophenoxymethyl)-N-hydroxyaminomethylene-α-methoxyiminophenylacetamide (0.36 g, 1 mmol), and the mixture was stirred at 120° C. for 4 hours. After completion of the reaction, ether (150 ml) was added, and the mixture was washed with saturated aqueous sodium bicarbonate solution (100 ml) twice. The ether layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the residue was purified by silica gel chromatography (ethyl acetate/n-hexane) and recrystallized from ethyl acetate/n-hexane to give 2-(4-chlorophenoxymethyl)phenyl 1,2,4-oxadiazol-5-yl ketone O-methyloxime (0.14 g, 40.8%) as colorless crystals.

reactant | Dioxane | 2 ml | O1CCOCC1 | C4H8O2
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
reactant | 2-(4-chlorophenoxymethyl)-N-hydroxyaminomethylene-α-methoxyiminophenylacetamide | 1 mmol, 0.36 g | ClC1=CC=C(OCC2=C(C=CC=C2)C(C(=O)N=CNO)=NOC)C=C1 | C17H16ClN3O4
solvent | ether | 150 ml | CCOCC | C4H10O
product | 2-(4-chlorophenoxymethyl)phenyl 1,2,4-oxadiazol-5-yl ketone O-methyloxime | 0.14 g, 40.8% | CON=C(C1=C(C=CC=C1)COC1=CC=C(C=C1)Cl)C1=NC=NO1 | C17H14ClN3O3
